US06136831
The procedure of Example 9 was repeated using 1-(6-fluorobenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione and 4-methylsulfonylphenylhydrazine hydrochloride as the starting materials to obtain 6-fluoro-2-[1-(4-methylsulfonylphenyl)-3-difluoromethyl-1H-pyrazol-5-yl]benzothiazole (yield, 65%). NMR(DMSO-d6) δ: 3.30 (3H, s), 7.23 (1H, t, J=54.1 Hz), 7.38-7.46 (1H, m), 7.56 (1H, s), 7.83-7.88 (2H, m), 7.94-7.99 (1H, m), 8.05-8.13 (3H, m); mp 204-206° C. (ethanol)

reactant | 1-(6-fluorobenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione | FC1=CC2=C(N=C(S2)C(CC(C(F)F)=O)=O)C=C1 | C11H6F3NO2S
reactant | 4-methylsulfonylphenylhydrazine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
product | 6-fluoro-2-[1-(4-methylsulfonylphenyl)-3-difluoromethyl-1H-pyrazol-5-yl]benzothiazole | 65% | FC1=CC2=C(N=C(S2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)C)C(F)F)C=C1 | C18H12F3N3O2S2
